US04950606
Enrichment: A 140 ml. solution of 10 mM R,S-1-phenyl-3-aminobutane, 100 M of sodium pyruvate, 0.1 mM of pyridoxal phosphate, and 25 mM of potassium phosphate (pH 7) was circulated through the above matrix at ambient temperatures and a rate of 5 ml/min. After two hours, the circulating liquid was removed from the apparatus. The concentration of 1-phenylbutan-3-one formed was 5.2 mM while that of R-1-phenyl-3-aminobutane was 4.8 mM. The pH was adjusted to 12.5 and R-1-phenyl-3-aminobutane was isolated quantitatively by extraction with heptane. After removal of the heptane by evaporation, the product was analyzed as 92.8% R-1-phenyl-3-aminobutane.

reactant | sodium pyruvate | 100 M | C(C(=O)C)(=O)[O-].[Na+]
reactant | pyridoxal phosphate | 0.1 mM | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | potassium phosphate | 25 mM, pH 7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 1-phenylbutan-3-one | C1(=CC=CC=C1)CCC(C)=O | C10H12O
